US07262303B2
b] (Z)-2-Methoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-acrylic acid methyl ester
2.50 g of 3-hydroxy-2-methoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-propionic acid methyl ester (5.25 mmol, syn/anti mixture of 1:4) was dissolved at room temperature in 25 ml of DMF. After the addition of 0.59 ml of conc. sufuric acid (10.5 mmol), the brown solution was stirred at 100° C. for 15 h. During cooling the reaction solution to r.t., the product crystallized. Under stirring, 15 ml of methanol were added at r.t. and the suspension stirred for 1 h at 0° C. The white crystals were filtered off, washed with 25 ml of cold (−15° C.) methanol in two portions and dried to constant weight (20° C./5 mbar/16 h) to afford 2.13 g (90%) of the title compound with a purity of 99.5% (GC area).

reactant | 3-hydroxy-2-methoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-propionic acid methyl ester | 5.25 mmol, 2.50 g | COC(C(C(C1=CC=C(C2=C1SC=C2)OCCC=2N=C(OC2C)C2=CC=CC=C2)O)OC)=O | C25H25NO6S
reactant | sufuric acid | 10.5 mmol, 0.59 ml | CCC(C)CCCCC(=O)NC(CCN)C(=O)NC(C(C)O)C(=O)NC(CCN)C(=O)NC1CCNC(=O)C(NC(=O)C(NC(=O)C(NC(=O)C(NC(=O)C(NC(=O)C(NC1=O)CCN)CC2=CC=CC=C2)CC(C)C)CCN)CCN)C(C)O.OS(=O)(=O)O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | (Z)-2-Methoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-acrylic acid methyl ester | 2.13 g, 90% | COC(/C(=C/C1=CC=C(C2=C1SC=C2)OCCC=2N=C(OC2C)C2=CC=CC=C2)/OC)=O | C25H23NO5S
